US07776904B2
Preparation 12: 4-(1-methylethyl)benzenesulfonamide (P12)
To concentrated aqueous ammonia (1.75 mL) in tetrahydrofuran (50 mL) at 0° C. with stirring was added over 2 min via syringe 4-(1-methylethyl)benzenesulfonyl chloride (3.3 g). A white precipitate was observed. Additional concentrated aqueous ammonia (1.75 mL) was added after 5 min. After 4 h volatiles were evaporated and the residue partitioned between EtOAc and aqueous NaHCO3. The organic layer was washed with brine, dried (Na2SO4) and volatiles evaporated to give the title crude compound as a colourless powder that was used without further purification.

reactant | ammonia | 1.75 mL | N | H3N
reactant | 4-(1-methylethyl)benzenesulfonyl chloride | 3.3 g | CC(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | ammonia | 1.75 mL | N | H3N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 4-(1-methylethyl)benzenesulfonamide | CC(C)C1=CC=C(C=C1)S(=O)(=O)N | C9H13NO2S
